US04997840
A mixture of 4-hydroxyquinoline-1-oxide (1 g), methanesulphonic anhydride (2 g) and potassium carbonate (2 g) in dichloromethane (20 ml) was stirred at 0° for 4 hours. Water (20 ml) was added to the mixture and the dichloromethane layer separated. The aqueous layer was extracted with dichloromethane (2×60 ml). The combined dichloromethane layer and extracts were dried over magnesium sulphate and evaporated to give a gum which was purified by flash chromatography on a silica gel column eluted with dichloromethane:methanol (19:1) to give the novel compound 4-hydroxyquinol-3-yl methanesulphonate, m.p. 224°.

reactant | 4-hydroxyquinoline-1-oxide | 1 g | OC1=CC=[N+](C2=CC=CC=C12)[O-] | C9H7NO2
reactant | methanesulphonic anhydride | 2 g | CS(=O)(=O)OS(=O)(=O)C | C2H6O5S2
reactant | potassium carbonate | 2 g | C([O-])([O-])=O.[K+].[K+]
reactant | Water | 20 ml | O | H2O
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | 4-hydroxyquinol-3-yl methanesulphonate | CS(=O)(=O)OC=1C=NC2=CC=CC=C2C1O | C10H9NO4S
